### PR TITLE
[Merged by Bors] - feat(Algebra/Lie/Semisimple): API for semisimple Lie algebras

### PR DESCRIPTION
**Pull request by jcommelin**
Including the result that ideals in a semisimple Lie algebra
are in a unique way the direct sum of simple ideals.
This result makes no assumptions on the ring of coefficients or the Lie algebra;
it holds over arbitrary base rings, and in arbitrary dimensions.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Lie/Semisimple.lean [hunk 1]
```diff
@@ -120,31 +96,453 @@ theorem hasTrivialRadical_iff_no_abelian_ideals :
...
+    intro x y
+    rw [← LieSubmodule.mem_bot (R := R) (L := L), ← h]
+    trivial
+  · intro I hI
+    have := IsSimple.eq_bot_or_eq_top I
+    contrapose! this
+    exact ⟨this, hI.ne⟩
+
+variable {R L} in
+lemma isAtom_iff_eq_top [IsSimple R L] (I : LieIdeal R L) : IsAtom I ↔ I = ⊤ :=
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Semisimple.lean:146]:
```suggestion
@[simp] lemma isAtom_iff_eq_top [IsSimple R L] (I : LieIdeal R L) : IsAtom I ↔ I = ⊤ :=
```

File: Mathlib/Algebra/Lie/Semisimple.lean [hunk 2]
```diff
@@ -120,31 +96,453 @@ theorem hasTrivialRadical_iff_no_abelian_ideals :
...
+  HasTrivialRadical.eq_bot_of_isSolvable _
+#align lie_algebra.center_eq_bot_of_semisimple LieAlgebra.HasTrivialRadical.center_eq_bot
+
+/-- A Lie algebra is simple if it is irreducible as a Lie module over itself via the adjoint
+action, and it is non-Abelian. -/
+class IsSimple : Prop where
+  eq_bot_or_eq_top : ∀ I : LieIdeal R L, I = ⊥ ∨ I = ⊤
+  non_abelian : ¬IsLieAbelian L
+#align lie_algebra.is_simple LieAlgebra.IsSimple
+
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Semisimple.lean:115]: I think we should probably have some more namespacing
```suggestion

namespace IsSimple

variable [IsSimple R L]

```
and close just above `SemisimpleGenerators`

File: Mathlib/Algebra/Lie/Semisimple.lean [hunk 3]
```diff
@@ -120,31 +96,453 @@ theorem hasTrivialRadical_iff_no_abelian_ideals :
...
+  · simpa [aux] using CompleteLattice.setIndependent_singleton _
+  · intro I hI₁ hI₂
+    rw [isAtom_iff_eq_top] at hI₁
+    subst I
+    obtain @⟨-, h₂⟩ := id h
+    rw [lie_abelian_iff_equiv_lie_abelian LieIdeal.topEquiv] at hI₂
+    contradiction
+
+/-- A semisimple Lie algebra has trivial radical. -/
+instance (priority := 100) hasTrivialRadical_of_isSemisimple [IsSemisimple R L] :
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Semisimple.lean:522]: I think this should be in the module doc string.

File: Mathlib/Algebra/Lie/Semisimple.lean [hunk 4]
```diff
@@ -120,31 +96,453 @@ theorem hasTrivialRadical_iff_no_abelian_ideals :
...
+    · congr 1
+      ext
+      simp only [Set.mem_union, Set.mem_inter_iff, Set.mem_setOf_eq]
+      tauto
+    all_goals
+      simp (config := { contextual := true }) only
+        [Set.mem_setOf_eq, Set.mem_union, and_imp, implies_true]
+      try tauto
+
+-- move this to `Mathlib.Order.SupIndep`
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Semisimple.lean:500]: Agreed!

**Review by ocfnash — COMMENTED** [review]
This is really nice!

I only have time for some superficial remarks now. My main thought is whether some of the proofs could be golfed by using more of the results about compactly-generated lattices.

I'll have more to say later.

File: Mathlib/Algebra/Lie/Semisimple.lean (hunk 4 above)
Comment (jcommelin) [reply Mathlib/Algebra/Lie/Semisimple.lean:500]: Oops... I forgot this :facepalm:

File: Mathlib/Algebra/Lie/Semisimple.lean [hunk 5]
```diff
@@ -120,31 +111,470 @@ theorem hasTrivialRadical_iff_no_abelian_ideals :
...
+    sSup X ≤ sSup Y ↔ X ⊆ Y :=
+  (IsSemisimple.semisimpleGenerators_atoms R L).sSup_le_sSup_iff_of_atoms X Y hX hY
+
+lemma sSup_inter_of_atoms (T₁ T₂ : Set (LieIdeal R L))
+    (hT₁ : ∀ I ∈ T₁, IsAtom I) (hT₂ : ∀ I ∈ T₂, IsAtom I) :
+    sSup (T₁ ∩ T₂) = (sSup T₁) ⊓ (sSup T₂) :=
+  (IsSemisimple.semisimpleGenerators_atoms R L).sSup_inter T₁ T₂ hT₁ hT₂
+
+instance (priority := 100) distribLattice : DistribLattice (LieIdeal R L) where
+  __ := (inferInstance : CompleteLattice (LieIdeal R L))
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Semisimple.lean:524]: This shouldn't be necessary I think
```suggestion
```

File: Mathlib/Algebra/Lie/Semisimple.lean [hunk 6]
```diff
@@ -120,31 +111,470 @@ theorem hasTrivialRadical_iff_no_abelian_ideals :
     HasTrivialRadical R L ↔ ∀ I : LieIdeal R L, IsLieAbelian I → I = ⊥ := by
   rw [hasTrivialRadical_iff_no_solvable_ideals]
   constructor <;> intro h₁ I h₂
-  · haveI : IsLieAbelian I := h₂; apply h₁; exact LieAlgebra.ofAbelianIsSolvable R I
-  · haveI : IsSolvable R I := h₂; rw [← abelian_of_solvable_ideal_eq_bot_iff]; apply h₁
+  · apply h₁; exact LieAlgebra.ofAbelianIsSolvable R I
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Semisimple.lean:114]:
```suggestion
  · exact h₁ _ <| ofAbelianIsSolvable R I
```

File: Mathlib/Algebra/Lie/Semisimple.lean [hunk 7]
```diff
@@ -120,31 +111,470 @@ theorem hasTrivialRadical_iff_no_abelian_ideals :
...
+  · rw [← abelian_of_solvable_ideal_eq_bot_iff]; apply h₁
     exact abelian_derivedAbelianOfIdeal I
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Semisimple.lean:116]:
```suggestion
  · rw [← abelian_of_solvable_ideal_eq_bot_iff]
    exact h₁ _ <| abelian_derivedAbelianOfIdeal I
```

File: Mathlib/Algebra/Lie/Semisimple.lean [hunk 8]
```diff
@@ -120,31 +111,470 @@ theorem hasTrivialRadical_iff_no_abelian_ideals :
...
+  have : Nontrivial (LieIdeal R L) := by
+    constructor
+    by_contra! H
+    apply IsSimple.non_abelian R (L := L)
+    constructor
+    intro x y
+    rw [← LieSubmodule.mem_bot (R := R) (L := L), H ⊥ ⊤]
+    trivial
+  constructor
+  apply IsSimple.eq_bot_or_eq_top
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Semisimple.lean:140]:
```suggestion
  suffices Nontrivial (LieIdeal R L) from ⟨IsSimple.eq_bot_or_eq_top⟩
  rw [LieSubmodule.nontrivial_iff, ← not_subsingleton_iff_nontrivial]
  have _i : ¬ IsLieAbelian L := IsSimple.non_abelian R
  contrapose! _i
  infer_instance
```

File: Mathlib/Algebra/Lie/Semisimple.lean [hunk 9]
```diff
@@ -120,31 +111,470 @@ theorem hasTrivialRadical_iff_no_abelian_ideals :
...
+  · intro h
+    apply IsSimple.non_abelian R (L := L)
+    constructor
+    intro x y
+    rw [← LieSubmodule.mem_bot (R := R) (L := L), ← h]
+    trivial
+  · intro I hI
+    have := IsSimple.eq_bot_or_eq_top I
+    contrapose! this
+    exact ⟨this, hI.ne⟩
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Semisimple.lean:157]:
```suggestion
lemma isAtom_top : IsAtom (⊤ : LieIdeal R L) :=
  ⟨bot_ne_top.symm, fun _ h ↦ IsSimpleOrder.LT.lt.eq_bot h⟩
```

File: Mathlib/Algebra/Lie/Semisimple.lean [hunk 10]
```diff
@@ -120,31 +111,470 @@ theorem hasTrivialRadical_iff_no_abelian_ideals :
...
+        rw [← hT₂]
+        exact le_sSup hJ'C
+  clear hJ hC C
+  intro J hJ hJS
+  obtain ⟨s, hs₁, hs₂⟩ := hJ S hJS
+  obtain ⟨t, ht, rfl⟩ := hS.atomistic_of_finset s hs₁ J hs₂
+  refine ⟨t, ?_, Finset.sup_id_eq_sSup t⟩
+  refine Set.Subset.trans ?_ hs₁
+  simpa only [Finset.coe_subset] using ht
+
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Semisimple.lean:323]: I think we can get more help from the lattice theory library here. For example:
```lean

lemma isAtomistic_of_sSup_eq_top (h : sSup S = ⊤) : IsAtomistic (LieIdeal R L) := by
  refine ⟨fun J ↦ ?_⟩
  obtain ⟨s, hs, hs'⟩ := atomistic hS J (by aesop)
  exact ⟨s, hs', fun I hI ↦ hS.isAtom I (hs hI)⟩

lemma complementedLattice_of_sSup_eq_top (h : sSup S = ⊤) : ComplementedLattice (LieIdeal R L) := by
  have := isAtomistic_of_sSup_eq_top hS h
  apply complementedLattice_of_isAtomistic

```
and then I presume some of the below lemmas should also become easy / redundant.

Comment (ocfnash) [reply Mathlib/Algebra/Lie/Semisimple.lean:323]: Incidentally it's not clear to me why `complementedLattice_of_isAtomistic` isn't an instance.

File: Mathlib/Algebra/Lie/Semisimple.lean [hunk 11]
```diff
@@ -120,31 +111,470 @@ theorem hasTrivialRadical_iff_no_abelian_ideals :
...
+/--
+In a semisimple Lie algebra,
+Lie ideals that are contained in the supremum of a collection of atoms
+are themselves the supremum of a subcollection of those atoms.
+
+The proof is by a compactness argument, reducing to finite collections of atoms.
+In the finite case, the proof is given in `atomistic_of_finset`.
+-/
+lemma atomistic (J : LieIdeal R L) (hJ : J ≤ sSup S) : ∃ T ⊆ S, J = sSup T := by
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Semisimple.lean:294]: Is this possibly a result about compactly-generated modular lattices, a rather than about the lattice `LieIdeal R L`?

For example I noticed a while ago that independence in such lattices can be characterised just by working with finite sets so I added `CompleteLattice.independent_iff_supIndep_of_injOn` (in #8154)

I admit I haven't read this proof closely so I may be wrong but superficially this looks like a similar result except for being atomistic rather than independent.

File: Mathlib/Algebra/Lie/Semisimple.lean (hunk 10 above)
Comment (jcommelin) [reply Mathlib/Algebra/Lie/Semisimple.lean:308]: Nice!

I guess it is not an instance as a remnant of the Lean 3 days, because the other direction is already an instance, and it would create a loop.

We could try to make it an instance in another PR...

Comment (jcommelin) [reply Mathlib/Algebra/Lie/Semisimple.lean:309]: > and then I presume some of the below lemmas should also become easy / redundant.

Actually, those lemmas are all working towards showing that the lattice is distributive. I've now indicated that in a comment.

Comment (jcommelin) [reply Mathlib/Algebra/Lie/Semisimple.lean]: I now completely abstracted these lemmas into lattice theory.

File: Mathlib/Algebra/Lie/Semisimple.lean (hunk 11 above)
Comment (jcommelin) [reply Mathlib/Algebra/Lie/Semisimple.lean]: I tried my best at abstracting this.

File: Mathlib/Order/BooleanAlgebra.lean [hunk 12]
```diff
@@ -877,3 +877,23 @@ instance PUnit.instBooleanAlgebra : BooleanAlgebra PUnit := by
...
+variable (α : Type*) [DistribLattice α]
+
+/--
+An alternative constructor for boolean algebras:
+a distributive lattice that is complemented is a boolean algebra.
+
+This is not an instance, because it creates data using choice.
+-/
+noncomputable
+def booleanAlgebra_of_complemented [BoundedOrder α] [ComplementedLattice α] : BooleanAlgebra α where
```
Comment (ocfnash) [inline Mathlib/Order/BooleanAlgebra.lean:892]:
```suggestion
def booleanAlgebraOfComplemented [BoundedOrder α] [ComplementedLattice α] : BooleanAlgebra α where
```

File: Mathlib/Order/BooleanGenerators.lean [hunk 13]
```diff
@@ -0,0 +1,189 @@
...
+
+lemma sSup_le_sSup_iff_of_atoms (X Y : Set α) (hX : X ⊆ S) (hY : Y ⊆ S) :
+    sSup X ≤ sSup Y ↔ X ⊆ Y := by
+  refine ⟨?_, sSup_le_sSup⟩
+  intro h a ha
+  apply (hS.mono hY).mem_of_isAtom_of_le_sSup_atoms _ _ ((le_sSup ha).trans h)
+  exact (hS.mono hX).isAtom a ha
+
+lemma complementedLattice_of_sSup_eq_top (h : sSup S = ⊤) : ComplementedLattice α := by
+  constructor
```
Comment (ocfnash) [inline Mathlib/Order/BooleanGenerators.lean:124]: I can't help wondering if it might be easier to establish modularity instead. So the proof would start:
```suggestion
  suffices IsModularLattice α by
    have _i := isAtomistic_of_sSup_eq_top hS h
    apply complementedLattice_of_isAtomistic
```
More generally I'm not sure what order to establish properties would minimize the effort here (e.g., could we establish complementarity first and then get atomisticness from `complementedLattice_iff_isAtomistic` etc.).

However what you have is clearly fine.

File: Mathlib/Algebra/Lie/Semisimple.lean [hunk 14]
```diff
@@ -120,31 +106,264 @@ theorem hasTrivialRadical_iff_no_abelian_ideals :
...
+    IsSemisimple R L := by
+  constructor
+  · simp
+  · simpa using CompleteLattice.setIndependent_singleton _
+  · intro I hI₁ hI₂
+    rw [IsSimple.isAtom_iff_eq_top] at hI₁
+    subst I
+    obtain @⟨-, h₂⟩ := id h
+    rw [lie_abelian_iff_equiv_lie_abelian LieIdeal.topEquiv] at hI₂
+    contradiction
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Semisimple.lean:361]:
```suggestion
    apply IsSimple.non_abelian (R := R) (L := L)
    rw [IsSimple.isAtom_iff_eq_top] at hI₁
    rwa [hI₁, lie_abelian_iff_equiv_lie_abelian LieIdeal.topEquiv] at hI₂
```

File: Mathlib/Algebra/Lie/Semisimple.lean [hunk 15]
```diff
@@ -120,31 +106,264 @@ theorem hasTrivialRadical_iff_no_abelian_ideals :
...
+  ext
+  simp only [LieIdeal.coe_bracket_of_module, LieSubmodule.coe_bracket, ZeroMemClass.coe_zero]
+  have : (⁅(⟨x, hJ' x.2⟩ : I), ⟨y, hJ' y.2⟩⁆ : I) = 0 := trivial_lie_zero _ _ _ _
+  apply_fun Subtype.val at this
+  exact this
+
+end IsSemisimple
+
+/-- A simple Lie algebra is semisimple. -/
+instance (priority := 100) IsSimple.instIsSemisimple [h : IsSimple R L] :
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Semisimple.lean:351]:
```suggestion
instance (priority := 100) IsSimple.instIsSemisimple [IsSimple R L] :
```

**Review by ocfnash — APPROVED** [review]
Thanks, this is marvelous!

bors d+

**Comment by ocfnash** [comment]
If you have the appetite I think a nice future refactor would be to remove:
````
import Mathlib.Algebra.Lie.Solvable
```
and move all the dependent material (`HasTrivialRadical` etc.) to its own file.

For bonus points, I think we also remove this import from `Mathlib.Algebra.Lie.Nilpotent` and move the two short dependent results into `Mathlib.Algebra.Lie.Solvable`.
